US04808595
2-Sulfamoylfuro[3,2-c]pyridine
To a solution of distilled diisopropylamine (16.2 ml, 0.116 mol) in distilled tetrahydrofuran (115 ml), cooled at -10° C., under a nitrogen atmosphere, was added 1.56M butyl lithium in hexane (75.3 ml, 0.117 mol). After 15 minutes, the solution was cooled to -70° C. and there was added dropwise a solution of furo[3,2-c]pyridine (11.74 g, 0.0987 mol) in tetrahydrofuran (70 ml). With vigorous stirring the gummy precipitate formed a salmon-colored powder. After one hour, sulfur dioxide gas was bubbled over the surface with gradual warming to room temperature. The suspension was diluted with diethyl ether (200 ml) and the precipitate was collected by filtration. This crude lithium sulfinate intermediate (29.1 g) was dissolved in water (200 ml) and sodium acetate trihydrate (61 g, 0.45 mol) and hydroxylamine-O-sulfonic acid (18 g, 0.16 mol) were added. The solution was stirred for 18 hours as the product slowly precipitated. The precipitated product was collected by filtration and redissolved in ethyl acetate/methanol, dried over anhydrous sodium sulfate, filtered through a pad of charcoal and evaporated to give white crystalline product (8.0 g, 41% yield). This material was recrystallized from ethyl acetate/methanol to give 6.7 g, m.p. 216°-218° C.

reactant | diisopropylamine | 0.116 mol, 16.2 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | 1.56M | C(CCC)[Li]
reactant | hexane | 0.117 mol, 75.3 ml | CCCCCC | C6H14
reactant | furo[3,2-c]pyridine | 0.0987 mol, 11.74 g | O1C=CC=2C=NC=CC21 | C7H5NO
reactant | sodium acetate trihydrate | 0.45 mol, 61 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | hydroxylamine-O-sulfonic acid | 0.16 mol, 18 g | NOS(=O)(=O)O | H3NO4S
solvent | tetrahydrofuran | 115 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 2-Sulfamoylfuro[3,2-c]pyridine | 8.0 g, 41% yield | S(N)(=O)(=O)C1=CC=2C=NC=CC2O1 | C7H6N2O3S
